US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(2,6-dichloro-phenyl)-ethyl]-amide
To a solution of 48 mg (0.3 mmol) of 1H-indole-7-carboxylic acid and 96 mg of TBTU (0.3 mmol) in 4 ml DMF, were added 0.26 ml (1.5 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 106 mg (0.3 mmol) (4-tert-butyl-benzyl)-[2-(2,6-dichloro-phenyl)-ethyl]-amine in 1 ml DMF was added. After stirring for 2 h at rt, the reaction mixture was diluted with 50 ml water and extracted with 2×50 ml EtOAc. The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was crystallized from diethylether, leading to 123 mg white solid (85%). MS (ISP) 479.5 (M+H)+.

reactant | 1H-indole-7-carboxylic acid | 0.3 mmol, 48 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.3 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.5 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(2,6-dichloro-phenyl)-ethyl]-amine | 0.3 mmol, 106 mg | C(C)(C)(C)C1=CC=C(CNCCC2=C(C=CC=C2Cl)Cl)C=C1 | C19H23Cl2N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(2,6-dichloro-phenyl)-ethyl]-amide | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCC2=C(C=CC=C2Cl)Cl)C=C1 | C28H28Cl2N2O
